US07728030B2
tert-Butyl[(1S,2R)-2-(4-ethylphenyl)-2-hydroxy-1-methylethyl]carbamate (7c)
The procedure described by J. Yin et al., J. Org. Chem. 2006, 71, 840-843) was used. A mixture of tert-butyl[(1S)-2-(4-ethylphenyl)-1-methyl-2-oxoethyl]carbamate (555 mg, 2 mmol), Al(iPr)3 (81 mg, 0.4 mmol), 2-propanol (1.32 g, 22 mmol), and toluene (2.6 ml, 1.3 ml/mmol) was heated in a sealed vial at 50° C. overnight. Then the reaction mixture was cooled to r.t., quenched with aqueous HCl (1 N, 10 ml), and diluted with ethyl acetate (10 ml). The layers were separated, the organic layer was washed with water (80 ml), dried with Na2SO4, and concentrated. Trituration with n-heptane (30 ml) afforded the subtitle compound as colourless precipitate, 137 mg. n-Heptane solution was concentrated under reduced pressure, and the residue purified by flash chromatography in silica gel to give the second crop of the subtitle compound, 318 mg. Overall yield 455 mg (81%).

reactant | tert-butyl[(1S)-2-(4-ethylphenyl)-1-methyl-2-oxoethyl]carbamate | 2 mmol, 555 mg | C(C)(C)(C)OC(N[C@H](C(=O)C1=CC=C(C=C1)CC)C)=O | C16H23NO3
reactant | Al(iPr)3 | 0.4 mmol, 81 mg | [Al](C(C)C)(C(C)C)C(C)C
reactant | 2-propanol | 22 mmol, 1.32 g | CC(C)O | C3H8O
solvent | toluene | 2.6 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl[(1S,2R)-2-(4-ethylphenyl)-2-hydroxy-1-methylethyl]carbamate | C(C)(C)(C)OC(N[C@H]([C@H](O)C1=CC=C(C=C1)CC)C)=O | C16H25NO3
